US05616726
Preparation of samarium/(R)-1,1'-bi-2-naphthol complex solution
To a suspension of 128 mg (0.50 mmol) of anhydrous samarium trichloride (SmCl3) in 4.0 ml of THF were added, in an argon atmosphere at room temperature, a lithium binaphthoxide solution in THF [prepared by adding 1.25 ml (2.0 mmol) of a 1.6N n-butyllithium solution in hexane to a solution of 286.4 mg (1.0 mmol) of (R)-1,1'-bi-2-naphthol in 4.0 ml of THF], 48.1 mg (0.50 mmol) of sodium t-butoxide and 99 μl (5.5 mmol) of water, in that order, and the mixture was stirred at room temperature for 15 hours and then allowed to stand overnight to allow the insoluble matter to precipitate. The supernatant solution was submitted to the reaction proper as a samarium/(R)-1,1'-bi-2-naphthol complex solution (0.05 mmol/l).

reactant | samarium trichloride | 0.50 mmol, 128 mg | [Cl-].[Cl-].[Cl-].[Sm+3]
reactant | lithium | [Li] | Li
reactant | n-butyllithium | 1.6N | C(CCC)[Li]
reactant | (R)-1,1'-bi-2-naphthol | 1.0 mmol, 286.4 mg | C1=CC=C2C(=C1)C=CC(=C2C3=C(C=CC4=CC=CC=C43)O)O | C20H14O2
reactant | sodium t-butoxide | 0.50 mmol, 48.1 mg | CC(C)([O-])C.[Na+]
reactant | water | 5.5 mmol, 99 μl | O | H2O
solvent | THF | 4.0 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 4.0 ml | C1CCOC1 | C4H8O
product | samarium (R)-1,1'-bi-2-naphthol | [Sm].C1=CC=C2C(=C1)C=CC(=C2C3=C(C=CC4=CC=CC=C43)O)O | InChI=1S/C20H14O2.Sm/c21-17-11-9-13-5-1-3-7-15(13)19(17)20-16-8-4-2-6-14(16)10-12-18(20)22;/h1-12,21-22H;
